US08207199B2
To a mixture of 1-[(pyridin-3-yloxy)carbonyl]piperidine-4-carboxylic acid (300 mg), 4-fluorobenzohydrazide (222 mg), HOBt (170 mg), and DCM (6 mL) was added WSC hydrochloride (299 mg), followed by stirring at room temperature overnight. The reaction liquid was purified directly by silica gel column chromatography (chloroform/methanol=99/1 to 90/10). The residue was dissolved in THF (6 mL), and toluenesulfonyl chloride (686 mg) and triethylamine (1.0 mL) were added thereto, followed by stirring at 50° C. for 8 hours. The reaction liquid was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=70/30 to 0/100). To the purified product were added isopropanol/water, and the resulting solid was collected by filtration and dried to obtain pyridin-3-yl 4-[5-(4-fluorophenyl)-1,3,4-oxadiazol-2-yl]piperidine-1-carboxylate (224 mg) as a colorless solid.

reactant | 1-[(pyridin-3-yloxy)carbonyl]piperidine-4-carboxylic acid | 300 mg | N1=CC(=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C12H14N2O4
reactant | 4-fluorobenzohydrazide | 222 mg | FC1=CC=C(C(=O)NN)C=C1 | C7H7FN2O
reactant | HOBt | 170 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 299 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | pyridin-3-yl 4-[5-(4-fluorophenyl)-1,3,4-oxadiazol-2-yl]piperidine-1-carboxylate | 224 mg | FC1=CC=C(C=C1)C1=NN=C(O1)C1CCN(CC1)C(=O)OC=1C=NC=CC1 | C19H17FN4O3
